US07648987B2
e) (3-Chloro-pyrazin-2-yl)-(3-benzyloxy-phenyl)-methanol
A THF (20 mL) solution of 2M n-BuLi in cyclohexanes was cooled to −78° C. and charged with 2,2,6,6-tetramethylpiperidine (1.8 mL, 10.48 mmol). The reaction vessel was removed from the cooling bath and allowed to warm to 0° C. for 15 min, then cooled back to −78° C. and charged with 2-chloropyrazine (1.0 g, 8.73 mmol) dropwise. The reaction was allowed to react for 15 min, and charged with a 10.0 mL THF solution of 3-benzyloxybenzaldehyde (2.0 g, 9.60 mmol) slowly at −78° C. The reaction was allowed to react for 2 h (TLC analysis (30% EtOAc:Hex)) and quenched with HClconc. (2.0 mL), and H2O (30.0 mL). The crude product was extracted from the aqueous/THF layer 4× with CH2Cl2. The organic layers were combined and washed 1× with H2O, 1×brine, dried over Na2SO4 and concentrated in vacuo, to yield the crude product as a brown oil. High performance flash chromatography (HPFC) with a 70 g Jones silica gel column (30% EtOAc:Hex) was applied to yield the desired product as a pale yellow solid; 1H NMR (CDCl3, 400 MHz) δ 5.01 (s, 3H), 6.00 (s, 2H), 6.90-6.96 (m, 3H), 7.23-7.41 (m, 6H), 8.36 (d, 1H, J=2.4 Hz), 8.54 (d, 1H, J=2.5 Hz); MS (ES) 327.16 (M+1), 329.16 (M+3).

reactant | n-BuLi | 2M | [Li]CCCC
reactant | 2,2,6,6-tetramethylpiperidine | 10.48 mmol, 1.8 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 2-chloropyrazine | 8.73 mmol, 1.0 g | ClC1=NC=CN=C1 | C4H3ClN2
reactant | 3-benzyloxybenzaldehyde | 9.60 mmol, 2.0 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1 | C14H12O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (3-Chloro-pyrazin-2-yl)-(3-benzyloxy-phenyl)-methanol | ClC=1C(=NC=CN1)C(O)C1=CC(=CC=C1)OCC1=CC=CC=C1 | C18H15ClN2O2
